*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1010VS-23N
* Inductance = 23nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1010VS-23N_freq port1 port2 PARAMS: Cpar=0.104pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=158
+ R2=0.0285
+ C= {Cpar}
+ K1=0.0000106
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=98
+ L_EL=1.97
+ L_F0=23.8E6
+ PkZ=0
.ends 1010VS-23N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1010VS-46N
* Inductance = 46nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1010VS-46N_freq port1 port2 PARAMS: Cpar=1.231pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=10.48
+ R2=0.0015
+ C= {Cpar}
+ K1=0.0000162
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=187.5
+ L_EL=1.97
+ L_F0=22.9E6
+ PkZ=0
.ends 1010VS-46N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1010VS-79N
* Inductance = 79nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1010VS-79N_freq port1 port2 PARAMS: Cpar=1.281pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=10.48
+ R2=0.002
+ C= {Cpar}
+ K1=0.0000238
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=303.5
+ L_EL=1.97
+ L_F0=22.9E6
+ PkZ=0
.ends 1010VS-79N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1010VS-111
* Inductance = 110nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.42GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1010VS-111_freq port1 port2 PARAMS: Cpar=0.574pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=76.28
+ R2=0.0026
+ C= {Cpar}
+ K1=0.0000307
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=192
+ L_EL=1.97
+ L_F0=10E6
+ PkZ=0
.ends 1010VS-111_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1010VS-141
* Inductance = 140nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-0.4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1010VS-141_freq port1 port2 PARAMS: Cpar=0.874pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=45.38
+ R2=0.003
+ C= {Cpar}
+ K1=0.0000444
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=258
+ L_EL=1.97
+ L_F0=10E6
+ PkZ=0
.ends 1010VS-141_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model w/Rvar
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
G_Rvar1 Lin n001 LAPLACE { V(Lin, n001) } {1/(1e-6+({K1}*((s^2)/(-4*pi^2))^0.25))}
C1 N002 N001 {C}
R1 Lout N002 {R1}
T1 N001 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3A






.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
